US07534914B2
STEP 1. 5-Fluoro-N-methylpyridin-2-amine
To a suspension of sodium hydride (60% dispersion in mineral oil, 117.8 mg, 4.91 mmol) in tetrahydrofuran (25 ml) was added a solution of 5-fluoropyridin-2-amine (500 mg, 4.46 mmol) in tetrahydrofuran (25 ml) at room temperature and the reaction mixture was stirred at 40° C. for 30 min. Then to the reaction mixture was added methyl iodide (696.9 mg, 4.91 mmol) at −40° C. and the resulting mixture was stand at room temperature overnight with stirring. The reaction was quenched by the addition of water and whole mixture was extracted with ethyl acetate. The organic extracts were dried over sodium sulfate and concentrated. The residue was purified by flush column chromatography on silica gel eluting with hexane/ethyl acetate (4/1) to afford 129 mg (23%) of the title compound:

reactant | sodium hydride | 4.91 mmol, 117.8 mg | [H-].[Na+]
reactant | 5-fluoropyridin-2-amine | 4.46 mmol, 500 mg | FC=1C=CC(=NC1)N | C5H5FN2
reactant | methyl iodide | 4.91 mmol, 696.9 mg | CI | CH3I
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-Fluoro-N-methylpyridin-2-amine | 129 mg, 23% | FC=1C=CC(=NC1)NC | C6H7FN2
